US05430151
2-(Trifluoromethyl)-decahydroquinoline
15 g (0.076 mol) of 2-(Trifluoromethyl)quinoline [prepared from quinoline-2-carboxylic acid according to M. S. Raasch, J. Org. Chem. 27, 1406 (1962)] were hydrogenated in 100 ml of tetrahydrofuran on 2.5 g of ruthenium on alumina (about 10% RU content) at 180° C. for 8 h at an H2 pressure of 80-100 bar in a 0.3 1 V4A autoclave. After filtration, the THF was stripped off and the crude product was fractionated in a water pump vacuum by means of a microdistillation apparatus. B.p.16 (main fraction): 88° C. Yield: 12.5 g (0.061 mol) (80% of theory) The product was obtained as a diastereomer mixture. 19F--NMR: δ=+0.65 ppm(d, JH-F =7.1 Hz)(according to integral about 88%) 19F--NMR: δ=+0.90 ppm(d, JH-F =7.1 Hz)(according to integral about 12%) (against external CF3COOH).

reactant | 2-(Trifluoromethyl)quinoline | 0.076 mol, 15 g | FC(C1=NC2=CC=CC=C2C=C1)(F)F | C10H6F3N
reactant | CF3COOH | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | ruthenium on alumina | 2.5 g | [Ru] | Ru
product | 2-(Trifluoromethyl)-decahydroquinoline | FC(C1NC2CCCCC2CC1)(F)F | C10H16F3N
